US04160841
A mixture of 4 parts of 1-(4-methoxyphenyl)-2-methyl-1H-imidazole and 37.5 parts of hydrobromic acid solution 48% is stirred and refluxed overnight. After cooling, the reaction mixture is evaporated. The residue is triturated in a mixture of 2-propanone and 2,2'-oxybispropane. The product is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 3.8 parts (69%) of 4-(2-methyl-1H-imidazol-1yl)phenol monohydrobromide; mp. 181-205° C.

reactant | 1-(4-methoxyphenyl)-2-methyl-1H-imidazole | COC1=CC=C(C=C1)N1C(=NC=C1)C | C11H12N2O
reactant | hydrobromic acid | Br | BrH
product | 4-(2-methyl-1H-imidazol-1yl)phenol monohydrobromide | 69% | Br.CC=1N(C=CN1)C1=CC=C(C=C1)O | InChI=1S/C10H10N2O.BrH/c1-8-11-6-7-12(8)9-2-4-10(13)5-3-9;/h2-7,13H,1H3;1H
